Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pentasa
 
Attending: ___.
 
Chief Complaint:
CC: 
___ pain and fevers
______________________________________________________________
 
Major Surgical or Invasive Procedure:
multiple large volume paracentesis, 5 liters off per session
liver abscess drained

 
History of Present Illness:
___ with DM, recent diagnosis of porta hepatis mass 
concerning
for cholangioCA admitted from ___ for workup of the mass
presenting with dehydration, dark urine, and altered mental
status. Patient underwent ERCP with sphincterotomy. Cytology c/w
adenoCA. Pt left AMA on ___. Patient returns with 1 day of
worsening abdominal pain. Pain located in the RUQ, constant
worsened with eating.  Associated with nonbloody emesis since
this morning. Denies fever, chills at home but febrile in the 
ED.
Reports dysuria without hematuria. Denies blood in the stool or
melena. Deniea chest pain or shortness of breath. Last BM
yesterday. He is very thirsty. He has been compliant with cipro
up until the night prior to admission. 

Patient with chronic abdominal pain since ___ underwent
extensive workup at 2 hospitals. + 40 lb weight loss since then.
Has had biliary stent placed for CBD obstruction. Following with
___ recently found to have hepatic mass surrounding the
porta hepatis. Diagnostic paracentesis did not grow any 
bacteria..
 
 
Past Medical History:
IBD s/p colectomy with ileoanal pouch and reversal
Erosive duodenitis ___ IBD
Pouchitis ___ IBD
Diabetes Mellitus I
Hypothyroidsism
Vitamin D deficiency

IMAGING Hx @ OSH:
___: CT abdomen/pelvis ___
-No acute process. Prior bowel resections and anastomoses. 
Possibly contracted gallbladder of uncertain clinical 
significance.
___: abdominal ___:
-Normal liver architecture, contracted gallbladder,CBD 3.0mm in 
diameter, pancreas unremarkable, no hydronephrosis. Doppler 
unremarkable
___ ___: j pouch with multiple 
ulcers. biopsies taken. normal ileoanal ___ biopsied. 
erythematous and ulcerated mucosa in neo-terminal 
ileum-biopsied. Findings of chron's rather than pochitis
___ small bowel ___: no e/o 
significant pathology in the proximal jejenum. Biopsies taken. 
normal stomach mucosa: antral biopsies taken. non-specific 
duodenitis in bulb, otherwise normal first, ___ and ___ part 
of the duodenum. normal esophagus. Regular Z-line
___ ___
-Debris filling the common bile duct with mild proximal biliary 
ductal dilation, concerning for obstruction. 
___: Plain film of abdomen single ___
-no radiographic evidence of ileus or obstruction.
___ ___
-Irregularity and narrowing of the proximal common hepatic duct 
suggesting strictures

 
Social History:
___
Family History:
1 Brother with DM I and other autoimmune problems
Father and sister with DM II
Mom deceased with emphysema

 
Physical Exam:
PHYSICAL EXAM:  
VITAL SIGNS: 
1. VS: T  = 98.7 P = 96 BP = 111/63 RR 18 O2Sat on  ___98% on RA 

GENERAL:  Ill appearing middle aged male who is laying in bed. 
He
is sweating profusely. 
Nourishment:OK  
Grooming:OK  
Mentation: PERRL   
2. Eyes: [] WNL 
EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[X] Regular  [X] Tachy  [] S1 [] S2 [] Systolic Murmur     /6,
Location:
[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
[] Vascular access  [X] Peripheral [] Central site:
2+ DPP b/l
5. Respiratory [X]WNL
CTAB
6. Gastrointestinal [ ] WNL
Diminished BS throughout. RUQ tenderness. Abdomen is soft,
without rebound, guarding or peritoneal signs. 
Well healed midline scar. 
7. Musculoskeletal-Extremities [] WNL
[ ] Tone WNL  [X]Upper extremity strength ___ and symmetrical  [
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
[] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint
swelling
8. Neurological [X] WNL
[X ] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [X]
CN II-XII intact  [X] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis
Present/Absent  [ ] Position sense WNL
[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [] WNL
+ jaudince
[X] Warm  [] Dry  [] Cyanotic [] Rash: 
10. Psychiatric [X] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 

 
Pertinent Results:
Admission Labs:
___ 04:13PM BLOOD WBC-22.6* RBC-4.01* Hgb-12.1* Hct-35.3* 
MCV-88 MCH-30.1 MCHC-34.3 RDW-13.8 Plt ___
___ 04:13PM BLOOD Neuts-89.1* Lymphs-2.1* Monos-8.6 Eos-0 
Baso-0.2
___ 04:13PM BLOOD ___ PTT-31.6 ___
___ 04:13PM BLOOD Glucose-285* UreaN-8 Creat-0.8 Na-122* 
K-4.2 Cl-82* HCO3-25 AnGap-19
___ 04:13PM BLOOD ALT-114* AST-156* AlkPhos-392* 
TotBili-3.2* DirBili-2.3* IndBili-0.9
___ 03:45AM BLOOD Calcium-7.4* Phos-3.1 Mg-1.7
___ 04:13PM BLOOD Albumin-3.1*
___ 04:21PM BLOOD Lactate-1.7

___ 06:04AM BLOOD WBC-8.9 RBC-2.89* Hgb-9.1* Hct-27.8* 
MCV-96 MCH-31.4 MCHC-32.7 RDW-18.7* Plt ___
___ 05:30AM BLOOD WBC-9.9 RBC-2.82* Hgb-8.7* Hct-25.9* 
MCV-92 MCH-30.6 MCHC-33.4 RDW-18.8* Plt ___
___ 05:10AM BLOOD WBC-12.5* RBC-2.73* Hgb-8.2* Hct-25.4* 
MCV-93 MCH-30.2 MCHC-32.4 RDW-19.0* Plt ___
___ 05:39AM BLOOD WBC-14.5* RBC-3.06* Hgb-9.2* Hct-28.7* 
MCV-94 MCH-30.0 MCHC-32.0 RDW-18.7* Plt ___
___ 06:04AM BLOOD Glucose-130* UreaN-8 Creat-0.6 Na-127* 
K-4.4 Cl-91* HCO3-28 AnGap-12
___ 05:30AM BLOOD Glucose-143* UreaN-10 Creat-0.6 Na-125* 
K-4.3 Cl-90* HCO3-25 AnGap-14
___ 05:10AM BLOOD Glucose-123* UreaN-9 Creat-0.6 Na-127* 
K-4.4 Cl-90* HCO3-25 AnGap-16
___ 05:39AM BLOOD Glucose-150* UreaN-7 Creat-0.6 Na-127* 
K-4.3 Cl-91* HCO3-27 AnGap-13
___ 05:30AM BLOOD ALT-14 AST-35 AlkPhos-439* TotBili-1.8*
___ 05:10AM BLOOD ALT-14 AST-32 AlkPhos-449* TotBili-1.7*
___ 05:39AM BLOOD ALT-12 AST-30 AlkPhos-458* TotBili-2.1*
___ 05:55AM BLOOD ALT-15 AST-30 AlkPhos-445* TotBili-2.0*

Paracentesis: 
___ 08:25PM ASCITES WBC-2667* RBC-3667* Polys-54* 
Lymphs-16* ___ Mesothe-2* Macroph-28*
___ 08:25PM ASCITES TotPro-3.6 Glucose-303

Micro: 
Blood culture 
                     
SENSITIVITIES: MIC expressed in MCG/ML                     
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ (___)
6:30AM
      ___. 

Imaging:
CT Chest (staging)
FINDINGS:  
  
The right axilla and supraclavicular station are obscured by 
contrast 
artifact.  Left axillary lymph nodes are numerous and some are 
enlarged, 
ranging in diameter up to 10 by 18 mm, 03:15.  Right hilar nodes 
are numerous and some are borderline enlarged as well.  There 
are no enlarged 
supraclavicular nodes. Anasarca in the anterior chest wall 
extends into both axillae. 
  
There are no discrete soft tissue lesions elsewhere in the 
imaged chest wall suspicious for malignancy. Gynecomastia is 
mild and symmetric. Findings below the diaphragm will be 
reported separately. 
  
There is no thyroid mass.  Atherosclerotic calcification is not 
evident. Aorta and pulmonary arteries and cardiac chambers are 
normal size.  Pericardial effusion is small, nonhemorrhagic and 
there is is only minimal right pleural effusion, despite 
ascites. 
  
The only enlarged intrathoracic nodes are in the right 
diaphragmatic station laterally, 10 mm, 03:45 and juxta cardiac, 
11 mm, 03:43 and in the esophageal hiatus, 10 mm, 03:46. By 
virtue of their location, these nodes reflect subdiaphragmatic 
pathology and could be either reactive or malignant. 
  
There are no lung lesions suspicious for metastasis. Subpleural 
atelectasis and subsegmental atelectasis, both primarily at the 
lung bases are not due to bronchial obstruction. Bronchial tree 
is patent to subsegmental levels. There are no bone lesions in 
the chest cage suspicious for malignancy or infection. 
  
IMPRESSION:    
No pulmonary metastases. 

CT ___
IMPRESSION:
1. 3.8 x 4.9 cm rim enhancing lobulated fluid collection in 
segment 7 of the
liver containing foci of gas, consistent with liver abscess.
2. Large ascites, increased compared to previous studies, with 
peritoneal
enhancement consistent with malignant and/or inflammatory 
change. Increase in
omental caking consistent with omental metastatic disease.
3. Increase in size of an ill-defined hilar mass traversed by 
the metallic
common bile duct stents, consistent with cholangiocarcinoma, 
with increased
size of associated lymphadenopathy.
4. Small bilateral pleural effusions, slightly increased. 
Bibasilar
atelectasis.
5. Pericardial effusion and diffuse anasarca.

___
A plastic stent placed in the biliary duct was found in the 
major papilla. This was removed with snare.  Evidence of a 
previous sphincterotomy was noted in the major papilla. 
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.Contrast medium was 
injected resulting in complete opacification. 
A long irregular stricture that was 20 mm long was seen at the 
common hepatic duct and upper third of the common bile duct. 
There was mild post-obstructive dilation of the right 
intrahepatic duct. 
No opacification of the left hepatic system with contrast 
initially. After few attempts we managed to advanced the 
guidewire into the left hepatic system using an angled wire 
followed by injection of contrast medium. Mild dilation of the 
left intrahepatics was noted on cholangiogram.   
Both right and left main hepatic ducts were dilated successfully 
using a ___ Fr Soehendra stent retriever over the existing right 
and left intrahepatic guidewires.
Two 8cm x 8mm Uncovered-WallFlex Biliary metal stents (REF 
___ were placed successfully across the 
stricture into the right and left main hepatic ducts.
Brisk drainage of bile and contrast from the biliary tree was 
noted endoscopically and fluoroscopically.  

CT ___
FINDINGS:  
  
LOWER CHEST: Bilateral pleural effusions have improved from ___, 
resolved on the right and slightly smaller on the left with 
adjacent 
compressive atelectasis. Linear atelectasis is seen at the left 
lung base and 
the lingula. Small pericardial effusion is unchanged. 
  
ABDOMEN: 
  
HEPATOBILIARY:  The liver demonstrates homogenous attenuation 
throughout.  A 
drainage catheter in the hepatic segment VII is identified with 
significant 
interval improvement of the intrahepatic abscess, previously 4.4 
x 2.8cm, now 
2.4 x 1.5cm. Two metallic common bile duct stents are in place 
with associated 
small pneumobilia, stable from the prior study.  The 
infiltrative mass in the 
porta hepatis, extending into segment IVB/V, consistent with 
known patient's 
known cholangiocarcinoma, is unchanged with stable 
lymphadenopathy about the 
celiac axis. Attenuation of the main portal vein (04:27) is 
unchanged. The 
common hepatic artery remains encased by tumor. The gallbladder 
is not 
visualized. 
  
SPLEEN:  The spleen shows normal size and attenuation 
throughout, without 
evidence of focal lesions.  A calcification within the spleen is 
unchanged, 
likely a granuloma. 
  
PANCREAS: Main pancreatic duct is not dilated.  The pancreas is 
atrophic. 
  
ADRENALS:  The right and left adrenal glands are normal. 
  
URINARY: The kidneys enhance symmetrically and excrete contrast 
promptly 
without hydronephrosis. 
  
GASTROINTESTINAL:  The visualized loops of small and large bowel 
are not 
obstructed. 
  
MESENTERY AND RETROPERITONEUM: Lymphadenopathy about the celiac 
axis and porta 
hepatis is unchanged. A 9.5 x 4.7 cm omental mass in the left 
hemi abdomen 
(04:41) was previously 9.6 x 4.3 cm, unchanged. Large 
intra-abdominal ascites 
with peritoneal thickening and enhancement is compatible with 
malignant and/or 
inflammatory change. There is no free intra-abdominal air. 
  
VASCULAR:  There is no abdominal aortic aneurysm.  There is no 
calcium burden 
in the abdominal aorta and great abdominal arteries.  The main 
portal vein is 
markedly attenuated at the porta hepatis, unchanged. The splenic 
vein and SMV 
are patent. 
  
BONES: No bone finding suspicious for infection or malignancy is 
seen. 
  
IMPRESSION:  
  
1.  Significant interval decrease of segment VII intrahepatic 
abscess.  The 
patient is afebrile with resolution of leukocytosis. The 
drainage catheter was 
removed at the bedside when patient came for subsequent 
paracentesis.  He 
tolerated the removal well without immediate issues. 
  
2.   Otherwise, no change in known hilar cholangiocarcinoma with 
associated 
lymphadenopathy and omental caking. 
  
3.  Large intra-abdominal ascites with peritoneal enhancement, 
compatible with 
malignant and/or inflammatory change. 
  
___ US liver with drain placement
FINDINGS:  
  
Targeted ultrasound of the right hepatic lobe demonstrates an 
approximate 5.0 
x 2.7 cm heterogeneous collection near the right dome 
corresponding to area of 
abscess on prior CT and ultrasound guided drainage. Echogenic 
material within 
this area may represents catheter pigtail and/or air. 
  
IMPRESSION:  
  
Decrease in size of right hepatic dome collection as described 
above. 
Echogenic material within the collection may represent catheter 
and/or air.  
At time of scanning, approximately 1 mL of pus was aspirated 
from the drain. 
  
___ 10:28 am ABSCESS      Source: liver. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ ___ 
10:20AM. 
      ___ ALBICANS. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS.  Fluconazole IS SENSITIVE . 
         sensitivity testing performed by ___. 
         This test has not been FDA approved but has been 
verified
         following Clinical and Laboratory Standards Institute 
guidelines
         by ___ Clinical 
___
         Laboratory.. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

 
Brief Hospital Course:
The patient is a ___ year old male with recent diagnosis of 
choangiocarcinoma, elevated ___ who presenents with fevers, 
hyponatremia, found to have peritonitis, cholangitis, GNR 
bacteremia and subsequently developed a liver abscess. Course 
was complicated by difficult to control abdominal pain, and 
nausea and recurrent malignant ascites.

#Infection: peritonitis, gram negative bacteremia, liver abscess
Patient presented septic with blood culture positive for E Coli. 
Peritoneal fluid was also consistent with bacterial peritonitis 
complicated by omental involvement of tumor secondary to 
metastases. He was treated with 2g IV ceftriaxone and flagyl. He 
then developed increasing WBC count and underwent CT abdomen 
which revealed a liver abscess. He underwent US guided drainage 
on ___ with 25cc of pus removed. Culture showed yeast.  
Fluconazole was added.  Due to decrease in drain output, the pt 
underwent repeat CT on ___ and drain removal on ___.  
The pt will need to continue with ceftriaxone, flagyl, and 
fluconazole for at least 2 weeks post drain removal.  Infectious 
disease will follow the pt and determine if longer antibiotics 
should be given. 

#Malignant Ascites
Presented with significant recurrent malignant ascites in 
addition to secondary peritonitis. His ascites was managed with 
intermittent large volume paracentesis. He received two doses of 
albumin on day 1 and 3 of treatment for peritonints.  He was 
followed by hepatology and we discussed placement of a drain to 
manage ascites. Given current infections, hepatology did not 
recommend drain placement. Also felt there was no role for 
diuretics. The patient will continue 2/x weekly large volume 
paracentesis.  Due to the pt living so far from the ___ 
center and its branches, the GI MD who has seen the pt in the 
past was contacted about managing the outpt paracentesis. 
___ that he would indeed manage this and that the 
pt should contact his office to set it up. 

#Cholangiocarcinoma: The patent was seen by heme/onc while 
hospitalized. The patient can begin treatment of his cancer when 
he has finished his antibiotic course. He patient will follow up 
with Dr. ___ for care.

#Pain
This was controlled with a fentanyl patch and oral liquid 
morphine as needed.

#Nausea with vomiting
The patent had significant pain and nausea with vomiting 
preventing ability to tolerate much by mouth. He was followed 
closely by palliative care who helped with symptom management.  
This was best controlled by keeping down the pt's ascites.

#Hyponatremia
Present throughout the admission. due to hypovlemia low albumin 
state and liver disease.  Pt was asymptomatic. It was felt that 
attempts to give IVF or significantly alter the pt's diet would 
not be very beneficial.

#DM type 1 x ___ years: 
On Lantus as outpatient.  The pt preferred to manage his blood 
sugars independtly. 

#IBD s/p colectomy with duodenitis and pouchitis: 
Per notes was on Budesonide,which was not continued on recent 
admission. Discussed with GI and felt not to contribute to 
recent presentation. Budesonide was not continued.

# Hypothyroidism: 
Levothyroxine 175mcg daily

Disposition:
The pt was strongly recommended by his care providers and his 
PCP to not return directly to home but rather to tranfer to an 
LTAC or SNF.  Despite our attempts to explain this to the 
patient and explain it was likely the best possible way to 
prevent further significant complications the pt was not 
willing.  The pt was d/ced to home with home care. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Budesonide 9 mg PO DAILY 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. HumaLOG (insulin lispro) 25 units subcutaneous TID/pre meals 
4. Lantus (insulin glargine) 25 units subcutaneous qam 
5. NexIUM (esomeprazole magnesium) 40 mg oral daily 
6. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
7. Spironolactone 50 mg PO BID 

 
Discharge Medications:
1. HumaLOG (insulin lispro) 25 units subcutaneous TID/pre meals 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN GERD 
4. Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*56 
Tablet Refills:*0
5. Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 10 mg by mouth before each meal and 
at bedtime Disp #*120 Tablet Refills:*0
6. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*84 Tablet Refills:*0
7. Morphine Sulfate (Oral Soln.) ___ mg PO Q4H:PRN pain 
RX *morphine 10 mg/5 mL ___ ml by mouth every 4 hours 
Refills:*0
8. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth every 8 
hours Disp #*90 Tablet Refills:*0
9. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
10. Lantus (insulin glargine) 25 units subcutaneous qam 
11. NexIUM (esomeprazole magnesium) 40 mg oral daily 
12. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
13. CeftriaXONE 2 gm IV Q24H 
RX *ceftriaxone 2 gram 2 g iv daily Disp #*28 Vial Refills:*0
14. Fentanyl Patch 75 mcg/h TD Q72H 
RX *fentanyl 75 mcg/hour apply to skin every 72 hours Disp #*10 
Patch Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangiocarcinoma
Cholangitis
E. Coli bacteremia
Liver abscess
Pain
Nausea/vomiting
Malignant ascites

 
Discharge Condition:
alert, interactive, ambulatory

 
Discharge Instructions:
You were admitted with abdominal pain and found to have a 
blockage in your bile duct. You underwent an ERCP with metal 
stent placement. You were also found to have an infection from 
the abdomen, and an abscess in your liver. This was drained. You 
were treated with antibiotics and will continue antibiotics on 
discharge.
For your ascites, you had paracentesis (procedure to remove 
fluid from your abdomen). You will need to continue to have 
these procedures as an outpatient.  The liver team here was 
originally going to set this up for you. However, because you 
are so far away from ___ they recommended that your GI 
physician set this up closer to your home than they are able to 
arrange.  We spoke with ___ at ___. He 
recommends that you call his office today and they will set this 
up for ___.  The office is expecting your call. 
You were also seen by oncology to discuss treatment for you 
cancer. A follow up appointment is being scheduled with Dr. 
___ discharge.
For pain, you were started on a fentanyl patch with dilaudid for 
breakthrough pain. You will continue to take reglan for your 
nausea.

 
Followup Instructions:
___